US07579469B2
A mixture of 1-[4-(3-bromophenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-1-H-quinolin-4-one (30 mg, 0.064 mmol), 3,5-dimethylisoxazole-4-boronic acid (9 mg, 0.064 mmol, 1 equiv.), bisdichlorotriphenylphosphinopalladium (II) (catalytic amount) and cesium carbonate (21 mg, 0.064 mmol) in 1.1 mL of ethylene glycol dimethyl ether-water-ethanol (7:3:2) was degassed, sealed in a vial, and irradiated twice (microwave) at 160° C. for 300 seconds. The reaction was cooled to room temperature and filtered through CELITE® filter aid. The filtrate was diluted with water and extracted with diethyl ether. The combined organic layers were washed with brine and dried with sodium sulfate. Removal of the volatiles in vacuo provided a residue which was purified by HPLC to give 1-{4-[3-(3,5-dimethylisoxazol-4-yl)phenyl]-2-hydroxy-4-methyl-2-trifluoromethylpentyl}-1H-quinolin-4-one.

reactant | 1-[4-(3-bromophenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-1-H-quinolin-4-one | 0.064 mmol, 30 mg | BrC=1C=C(C=CC1)C(CC(CN1C=CC(C2=CC=CC=C12)=O)(C(F)(F)F)O)(C)C | C22H21BrF3NO2
reactant | 3,5-dimethylisoxazole-4-boronic acid | 0.064 mmol, 9 mg, 1 equiv. | CC1=NOC(=C1B(O)O)C | C5H8BNO3
reactant | cesium carbonate | 0.064 mmol, 21 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | ethylene glycol dimethyl ether water ethanol | 1.1 mL | COCCOC.O.C(C)O
product | 1-{4-[3-(3,5-dimethylisoxazol-4-yl)phenyl]-2-hydroxy-4-methyl-2-trifluoromethylpentyl}-1H-quinolin-4-one | CC1=NOC(=C1C=1C=C(C=CC1)C(CC(CN1C=CC(C2=CC=CC=C12)=O)(C(F)(F)F)O)(C)C)C | C27H27F3N2O3
